US07745490B2
To a stirred suspension of N-(3-methoxy-4-methanesulfonylaminophenyl)-3,4-methylenedioxybenzamide (200 mg) in dry CH3Cl2 (20 ml) under nitrogen, was added boron tribromide (0.3 ml) then stirring continued for a further 20 hours. Methanol (50 ml) was added carefully, then the solvent evaporated in vacuo to a volume of 1 ml, this was repeated 2 more times. Purification by column chromatography over silica gel eluting with chloroform containing methanol (10-20%) gave N-(3-hydroxy-4-methanesulfonylaminophenyl)-3,4-dihydroxybenzamide (62 mg, 33%) as pale brown crystals.

reactant | N-(3-methoxy-4-methanesulfonylaminophenyl)-3,4-methylenedioxybenzamide | 200 mg | COC=1C=C(C=CC1NS(=O)(=O)C)NC(C1=CC2=C(C=C1)OCO2)=O | C16H16N2O6S
reactant | boron tribromide | 0.3 ml | B(Br)(Br)Br | BBr3
solvent | Methanol | 50 ml | CO | CH4O
product | N-(3-hydroxy-4-methanesulfonylaminophenyl)-3,4-dihydroxybenzamide | 62 mg, 33% | OC=1C=C(C=CC1NS(=O)(=O)C)NC(C1=CC(=C(C=C1)O)O)=O | C14H14N2O6S
